US08232326B2
Synthesis of 3-(5-chloro-2H-benzo[d][1,2,3]triazol-2-yl)-2-hydroxy-5-methoxybenzyl methacrylate
In a 250 ml round bottom flask equipped with a magnetic stirrer and nitrogen inlet was dissolved 3.98 g (13.0 mmol) 2-(5-chloro-2H-benzo[d][1,2,3]triazol-2-yl)-6-(hydroxymethyl)-4-methoxyphenol in 60 ml anhydrous THF. Triethylamine (6.4 ml) was added and the mixture was cooled to −10-0° C. Methacryloyl chloride (1.62 g, 15.5 mmol) was added dropwise and the mixture was stirred for 1 hr at −10-0° C. followed by 20 hours at ambient temperature. The solid was filtered and rinsed with 100 ml diethyl ether. The organic layer was washed with 1 N HCl and water, dried with magnesium sulfate, filtered, and concentrated via rotary evaporation to yield a yellow oil which was recrystallized in ethanol to give 1.73 g (34%) of a light yellow solid. 1H NMR (CDCl3) delta: 11.00 (s, 1H, Ar—OH), 7.92 (s, 1H, Ar—H benzotriazole), 7.88 (s, 1H, Ar—H phenol), 7.87 (d, 1H, Ar—H benzotriazole), 7.45 (d, 1H, Ar—H benzotriazole), 7.06 (s, 1H, Ar—H phenol), 6.21 (s, 1H, C═C—H trans), 5.62 (s, 1H, C═C—H cis), 5.38 (s, 2H, Ar—CH2), 3.89 (s, 3H, Ar—OCH3), 2.01 (s, 3H, C═C—CH3).

reactant | 2-(5-chloro-2H-benzo[d][1,2,3]triazol-2-yl)-6-(hydroxymethyl)-4-methoxyphenol | 13.0 mmol, 3.98 g | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)OC)CO)O)C=C1 | C14H12ClN3O3
reactant | Triethylamine | 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | Methacryloyl chloride | 15.5 mmol, 1.62 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 3-(5-chloro-2H-benzo[d][1,2,3]triazol-2-yl)-2-hydroxy-5-methoxybenzyl methacrylate | 1.73 g, 34% | C(C(=C)C)(=O)OCC1=C(C(=CC(=C1)OC)N1N=C2C(=N1)C=CC(=C2)Cl)O | C18H16ClN3O4
